US08535655B2
c) (S)-2,3-dihydroxypropyl 9-fluoro-3-methyl-10-(-4-methylpiperazin-1-yl)-7-oxo-3,7-dihydro-2H-[1,4]oxazino[2,3,4-ij]quinoline-6-carboxylate
(S)-(2,2-dimethyl-1,3-dioxolan-4-yl)methyl 9-fluoro-3-methyl-10-(4-methylpiperazin-1-yl)-7-oxo-3,7-dihydro-2H-[1,4]oxazino[2,3,4-ij]quinoline-6-carboxylate (5.67 g, 10.8 mmol) was dissolved in 80% aqueous acetic acid (45 mL). The reaction mixture was heated at 75° C. for 8 hrs. The solvent was removed under reduced pressure. Toluene was added to the residue and the solvent again removed under reduced pressure. The product was purified by column chromatography (10%, followed by 20%, 30%, and 75% methanol/chloroform as eluent) to give the title compound as an off-white solid in 84% yield.

reactant | (S)-(2,2-dimethyl-1,3-dioxolan-4-yl)methyl 9-fluoro-3-methyl-10-(4-methylpiperazin-1-yl)-7-oxo-3,7-dihydro-2H-[1,4]oxazino[2,3,4-ij]quinoline-6-carboxylate | 10.8 mmol, 5.67 g | FC=1C=C2C(C(=CN3C2=C(C1N1CCN(CC1)C)OCC3C)C(=O)OC[C@H]3OC(OC3)(C)C)=O | C24H30FN3O6
solvent | acetic acid | 45 mL | C(C)(=O)O | C2H4O2
product | (S)-2,3-dihydroxypropyl 9-fluoro-3-methyl-10-(-4-methylpiperazin-1-yl)-7-oxo-3,7-dihydro-2H-[1,4]oxazino[2,3,4-ij]quinoline-6-carboxylate | 84% yield | FC=1C=C2C(C(=CN3C2=C(C1N1CCN(CC1)C)OCC3C)C(=O)OC[C@H](CO)O)=O | C21H26FN3O6
